US06265411B1
A suspension of 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride (500 mg, 1.8 mmol) in a mixture of water (20 ml) and ethyl acetate (20 ml) was diluted with a saturated solution of sodium hydrogen carbonate. After stirring at ambient temperature for 15 minutes the solution was extracted with ethyl acetate. The organic layer was washed with brine, dried (MgSO4) and evaporated to give 4-chloro-7-(2-methoxyethoxy)quinazoline (345 mg, 80%).

reactant | 4-chloro-7-(2-methoxyethoxy)quinazoline hydrochloride | 1.8 mmol, 500 mg | Cl.ClC1=NC=NC2=CC(=CC=C12)OCCOC
solvent | water | 20 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 4-chloro-7-(2-methoxyethoxy)quinazoline | 345 mg, 80% | ClC1=NC=NC2=CC(=CC=C12)OCCOC | C11H11ClN2O2
